US05550122
b) 6-Ethylpyrido[2,3-b][1,5]benzothiazepin-5(6H)-one
Sodium hydride (1.05 g of a 50% suspension in mineral oil) was added to a suspension of pyrido[2,3-b][1,5]benzothiazepin-5(6H)-one (4.0 g, 0.0175 mol) in 100 ml of dimethylformamide and the resulting mixture stirred until the evolution of gas stopped, at which time the mixture was heated to 50° C. for 30 min. After cooling to room temperature, ethyl iodide (5.46 g, 0.035 mol) was slowly added and the reaction mixture allowed to stir for 2 hours. Crushed ice was added to decompose unreacted sodium hydride. Water was then added and the product was extracted with ether, dried (anhydrous sodium sulfate) and concentrated in vacuo. After washing the solid residue with hexane, it was recrystallized from ethyl acetate/hexane to give 0.66 g (14% of theory) of product as yellow crystals, m.p. 148°-149° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | pyrido[2,3-b][1,5]benzothiazepin-5(6H)-one | 0.0175 mol, 4.0 g | N1=CC=CC2=C1SC1=C(NC2=O)C=CC=C1 | C12H8N2OS
reactant | ethyl iodide | 0.035 mol, 5.46 g | C(C)I | C2H5I
reactant | Water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-Ethylpyrido[2,3-b][1,5]benzothiazepin-5(6H)-one | C(C)N1C(C2=C(SC3=C1C=CC=C3)N=CC=C2)=O | C14H12N2OS
